US04051153
(2R,6R)-(+)-1-tert. Butoxy-2,6,10-trimethylundecane
A mixture of 2.33 g. (0.097 mole) of powdered magnesium and a few iodine crystals in 23 ml. of dry tetrahydrofuran was stirred at reflux temperature while a solution of 17.9 g. (0.08 mole) of (R)-(-)-1-bromo-3,7-dimethyloctane in 51 ml. of dry tetrahydrofuran was added dropwise over 1 hour. The mixture was stirred at reflux for an additional 1 hour then cooled to room temperature. To a solution of 19.5 g. (0.065 mole) of (S)-(+)-3-tert. butoxy-2-methyl-1-propyl p-toluenesulfonate in 56 ml. of dry tetrahydrofuran, stirring at -78° C. was added the R-3,7-dimethyl-1-octyl magnesium bromide solution dropwise, followed by 3.3 ml. of a 0.1 M Li2CuCl4 solution in dry tetrahydrofuran. The resulting mixture was stirred at -78° C. for 10 minutes, for 2 hours at 0°-5° C. (ice bath) and finally for 18 hours at room temperature. At the end of this time, the reaction mixture was treated with 1 N aqueous H2SO4 and work up was carried out by extraction with ether in the manner of Example 1. The crude product was chromatographed on 450 g. of silica gel. Elution with 19:1 parts by volume hexane-ether gave the desired product which was distilled under high vacuum yielding 12.5 g. of (2R,6R)-(+)-1-tert. butoxy-2,6,10-trimethylundecane as a colorless oil, b.p. 91°-95° C. (0.3 mm Hg); [α]25D + 0.94° (c 2.01, hexane).

reactant | magnesium | 0.097 mole | [Mg] | Mg
reactant | iodine crystals | II | I2
reactant | (R)-(-)-1-bromo-3,7-dimethyloctane | 0.08 mole | BrCC[C@@H](CCCC(C)C)C | C10H21Br
reactant | (S)-(+)-3-tert. butoxy-2-methyl-1-propyl p-toluenesulfonate | 0.065 mole | C1(=CC=C(C=C1)S(=O)(=O)OC[C@H](COC(C)(C)C)C)C | C15H24O4S
reactant | H2SO4 | 1 N | OS(=O)(=O)O | H2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (2R,6R)-(+)-1-tert. Butoxy-2,6,10-trimethylundecane | C(C)(C)(C)OC[C@@H](CCC[C@@H](CCCC(C)C)C)C | C18H38O
